US08012956B2
To an ice cold solution of 4-(1-methylpiperidin-4-yl)benzamide (190 mg, 0.87 mmol) in tetrahydrofuran (5 mL) was added 1.0M lithium aluminum hydride in tetrahydrofuran (1.79 mL, 1.79 mmol) and stirring continued overnight at room temperature. The reaction mixture was quenched by adding sodium sulfate decahydrate until gas evolution ceased. The suspension was filtered through Celite and the filter cake washed with a mixture of ethyl acetate and chloroform (2:1, 50 mL). The filtrate was concentrated to give 4-(1-methylpiperidin-4-yl)benzylamine (130 mg, 71%) as an oil. 1H NMR (400 MHz, CDCl3): 7.23 (dd, 4H), 3.86 (s, 3H), 2.98 (m, 2H), 2.49 (m, 1H), 2.11 (m, 2H), 1.83 (m, 4H).

reactant | 4-(1-methylpiperidin-4-yl)benzamide | 0.87 mmol, 190 mg | CN1CCC(CC1)C1=CC=C(C(=O)N)C=C1 | C13H18N2O
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.79 mmol, 1.79 mL | O1CCCC1 | C4H8O
product | 4-(1-methylpiperidin-4-yl)benzylamine | 130 mg, 71% | CN1CCC(CC1)C1=CC=C(CN)C=C1 | C13H20N2
